* C:\Users\Milagros\Documents\GitHub\Potencia\Spice\Circuit-loqueanda.asc
XX1 vgad A 0 mymos
XX2 vgau vdc A mymos
XX3 vgbd B 0 mymos
VDC vdc 0 96
XX4 vgbu vdc B mymos
LL A N003 36µ
VgAu N001 A PULSE(0 15 0 1n 1n 7u 42.666u)
VgAd N004 0 0
VgBu N002 B 0
VgBd N005 0 15
R1 vgau N001 {Rgval}
R2 N002 vgbu {Rgval}
R3 vgad N004 {Rgval}
R4 N005 vgbd {Rgval}
Csnub1 A N006 {Csnubber}
Rsnub1 N006 0 {Rsnub}
Csnub2 B N007 {Csnubber}
R7 B N003 0.2
R5 N007 0 {Rsnub}

* block symbol definitions
.subckt mymos G D S
R_gss N001 G 5
R_ds Di D 3
R_ss S Si 3
L_gss G N001 5n
L_dss Di D 3n
L_s S Si 3n
R_gs Gi N001 1.6
Cin Gi Si 10.5n
XU2 Gi Di Si LibMOS
C1 N002 S {Cgsnubber}
R1 G N002 {Rgsnubber}
.inc LibMOS.lib
.ends mymos

.tran 0 480u 466u
.param Rgval=10 Csnubber=10n Rsnub=0.5 Cgsnubber=10n Rgsnubber=500m
.lib LibMOS.lib
.backanno
.end
