* C:\Users\Milagros\Documents\GitHub\Potencia\Spice\Circuit.asc
XX1 vgad A 0 mymos
RgAd vgad N004 {Rgval}
VgAd N004 0 0
XX2 vgau vdc A mymos
RgAu vgau N001 {Rgval}
VgAu N001 A PULSE(0 15 0 1n 1n 7u 42.666u)
XX3 vgbd B 0 mymos
RgBd N005 vgbd {Rgval}
VgBd N005 0 15
VDC vdc 0 96
XX4 vgbu vdc B mymos
RgBu N002 vgbu {Rgval}
VgBu N002 B 0
RL B N003 0.1
LL A N003 36µ
Csnub A B {Csnubber} Rser=1 Rpar=0

* block symbol definitions
.subckt mymos G D S
R_gss N001 G 5
R_ds Di D 3
R_ss S Si 3
L_gss G N001 5n
L_dss Di D 3n
L_s S Si 3n
R_gs Gi N001 1.6
Cin Gi Si 10.5n
C1 G S 10n Rser=100m
XU2 Gi Di Si LibMOS
.inc LibMOS.lib
.ends mymos

.tran 0 480u 466u
*.step param Csnubber list 100n 220n
.param Rgval=15 Csnubber=1n
.lib LibMOS.lib
.backanno
.end
